US04087445
An amount of 13 g (23.3 m mol) of N-(5,7-diiodo-1,3-benzoxathiol-2-ylidene)-N-methylmethanaminium iodide was heated at reflux for 4 hours in a mixture of 200 ml of methanol and 50 ml of aqueous 10 percent sodium hydroxide. The reaction mixture was filtered, added to 400 ml of water and acidified with hydrochloric acid. The mixture was extracted with methylene chloride. After drying over anhydrous sodium sulfate, the methylene chloride extract was condensed in vacuo to give 6.1 g (69.4 percent yield) of 2,4-diiodo-6-mercaptophenol: M.P. 177.5°-179.5° C; nmr (DMSO-d6) δ 7.96 (doublet), 7.57 (doublet), and 3.42 (broad singlet).

reactant | N-(5,7-diiodo-1,3-benzoxathiol-2-ylidene)-N-methylmethanaminium iodide | 13 g | [I-].IC=1C=C(C2=C(SC(O2)=[N+](C)C)C1)I
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2,4-diiodo-6-mercaptophenol | 6.1 g, 69.4 percent yield | IC1=C(C(=CC(=C1)I)S)O | C6H4I2OS
